US04172095
Similarly, the 3-amino-4-chloro-2-methylthiomethylbenzotrifluoride may be replaced with equivalent quantities of 3-amino-4-bromo-2-methylthiomethylbenzotrifluoride, 3-amino-4-iodo-2-methylthiomethylbenzotrifluoride, 3-amino-4-methylthio-2-methylthiomethylbenzotrifluoride, 3-amino-4-ethylthio-2-methylthiobenzotrifluoride, 3-amino-4-n-propylthio-2-methylthiomethylbenzotrifluoride, 3-amino-4-n-butylthio-2-methylthiomethylbenzotrifluoride, 3-amino-4-heptylthio-2-methylthiomethylbenzotrifluoride, or 3-amino-4-octylthio-2-methylthiomethylbenzotrifluoride, and by following substantially the process of Example 2, step B, there is produced 3-amino-2-methylbenzotrifluoride.

reactant | 3-amino-4-chloro-2-methylthiomethylbenzotrifluoride | NC=1C(=C(C=CC1Cl)C(F)(F)F)CSC | C9H9ClF3NS
reactant | 3-amino-4-bromo-2-methylthiomethylbenzotrifluoride | NC=1C(=C(C=CC1Br)C(F)(F)F)CSC | C9H9BrF3NS
reactant | 3-amino-4-iodo-2-methylthiomethylbenzotrifluoride | NC=1C(=C(C=CC1I)C(F)(F)F)CSC | C9H9F3INS
reactant | 3-amino-4-methylthio-2-methylthiomethylbenzotrifluoride | NC=1C(=C(C=CC1SC)C(F)(F)F)CSC | C10H12F3NS2
reactant | 3-amino-4-ethylthio-2-methylthiobenzotrifluoride | NC=1C(=C(C=CC1SCC)C(F)(F)F)SC | C10H12F3NS2
reactant | 3-amino-4-n-propylthio-2-methylthiomethylbenzotrifluoride | NC=1C(=C(C=CC1SCCC)C(F)(F)F)CSC | C12H16F3NS2
reactant | 3-amino-4-n-butylthio-2-methylthiomethylbenzotrifluoride | NC=1C(=C(C=CC1SCCCC)C(F)(F)F)CSC | C13H18F3NS2
reactant | 3-amino-4-heptylthio-2-methylthiomethylbenzotrifluoride | NC=1C(=C(C=CC1SCCCCCCC)C(F)(F)F)CSC | C16H24F3NS2
reactant | 3-amino-4-octylthio-2-methylthiomethylbenzotrifluoride | NC=1C(=C(C=CC1SCCCCCCCC)C(F)(F)F)CSC | C17H26F3NS2
product | 3-amino-2-methylbenzotrifluoride | NC=1C(=C(C=CC1)C(F)(F)F)C | C8H8F3N
